US05034404
A mixture of 14.99g of 2-chloro-5-(chloromethyl) pyridine, 63.01g of 25% ammonia water and 60ml of acetonitrile in a stainless steel autoclave was stirred for 2 hours in an oil bath of 80° C. After adding 12.3g of 30% sodium hydroxide aqueous solution, the reaction mixture was concentrated. The residue to which 200ml of ethanol were added was dried over anhydrous magnesium sulfate and, filtered to remove insoluble materials. The filtrate was concentrated and purified by a column chromatography [developing solvent: dichloromethane-methanol (4:1)] to afford 7.66g of 5-(aminomethyl)-2- chloropyridine as a yellow solid.

reactant | 2-chloro-5-(chloromethyl) pyridine | 14.99g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | ammonia water | 63.01g | O.N
reactant | sodium hydroxide | 12.3g | [OH-].[Na+]
solvent | acetonitrile | 60ml | C(C)#N | C2H3N
product | 5-(aminomethyl)-2- chloropyridine | 7.66g | NCC=1C=CC(=NC1)Cl | C6H7ClN2
